US06251911B1
A mixture of 117.8 g (342 mmol) of 3-[4-(N-Boc-aminomethyl)-phenylamino)2-cyano-3-methylmercaptoacrylonitrile, 20.54 ml (41.45 mmol) of hydrazine hydrate and 750 ml of methanol is heated under reflux for 3 hours and then concentrated by evaporation in vacuo at 50° C., yielding 5-amino-3-[4-(N-Boc-aminomethyl)-phenylamino]-4-cyano pyrazole in the form of an amorphous residue; TLC-Rf=0.28 (methylene chloride/methanol [9:1]).

reactant | 3-[4-(N-Boc-aminomethyl)-phenylamino)2-cyano-3-methylmercaptoacrylonitrile | 342 mmol, 117.8 g | C(=O)(OC(C)(C)C)NCC1=CC=C(C=C1)NC(=C(C#N)C#N)SC | C17H20N4O2S
reactant | hydrazine hydrate | 41.45 mmol, 20.54 ml | O.NN
solvent | methanol | 750 ml | CO | CH4O
product | 5-amino-3-[4-(N-Boc-aminomethyl)-phenylamino]-4-cyano pyrazole | NC1=C(C(=NN1)NC1=CC=C(C=C1)CNC(=O)OC(C)(C)C)C#N | C16H20N6O2
